US08022068B2
b) 3-[(2S,4R,5R)-4-[4-((S)-3-Methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propionic acid
To a solution of 1.0 mmol of 3-[(2S,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propionic acid methyl ester in 10 ml of THF and 10 ml of MeOH are added 10 ml of a 3M lithium hydroxide solution. The reaction mixture is stirred for 4 h at 65° C. The organic solvents are evaporated under reduced pressure and the remaining solution is acidified with 3M aqueous HCl until pH 2. This mixture is extracted with 100 ml of EtOAc (3×). The combined organic layers are washed with brine and dried with Na2SO4. The organic layer is filtered and evaporated under reduced pressure. The residue is purified by flash chromatography (SiO2 60 F) to afford the title compound as a pale orange foam. Rf=0.28 (EtOAc/heptane/HCOOH 2:1:0.1); Rt=5.50 (gradient I).

reactant | 3-[(2S,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propionic acid methyl ester | 1.0 mmol | COC(C(C[C@H]1N(C[C@@H]([C@H](C1)C1=CC=C(C=C1)COC[C@H](COC)C)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)(C)C)=O | C43H60N2O9S
reactant | lithium hydroxide | 3M | [OH-].[Li+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | MeOH | 10 ml | CO | CH4O
product | 3-[(2S,4R,5R)-4-[4-((S)-3-Methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propionic acid | COC[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(C(=O)O)(C)C)C | C42H58N2O9S
